US07018988B2
(2S,4EZ)-N-(2-amino-2-oxoethyl)-1-(2′,6′-dimethyl[1,1′-biphenyl]-4-yl)carbonyl-4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 2′,6′-dimethyl[1,1′-biphenyl]4-carboxylic acid, and 2-aminoacetamide, the title compound was obtained in 88% purity by HPLC. MS(ESI+): m/z=423.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 2′,6′-dimethyl[1,1′-biphenyl]4-carboxylic acid | CC1=C(C(=CC=C1)C)C1=CC=C(C=C1)C(=O)O | C15H14O2
reactant | 2-aminoacetamide | NCC(=O)N | C2H6N2O
product | (2S,4EZ)-N-(2-amino-2-oxoethyl)-1-(2′,6′-dimethyl[1,1′-biphenyl]-4-yl)carbonyl-4-(methoxyimino)-2-pyrrolidinecarboxamide | NC(CNC(=O)[C@H]1N(CC(C1)=NOC)C(=O)C1=CC=C(C=C1)C1=C(C=CC=C1C)C)=O | C23H26N4O4
